US04232032
A mixture of 6-amino-2,4-bis(trichloromethyl)benzo[1,3]dioxin (1.0 g.), acetyl chloride (1 ml.) and acetic anhydride (25 ml.) was warmed on a steam bath for 5 hours. The reaction mixture was cooled and evaporated to dryness under reduced pressure. Trituration of the oily residue with aqueous ethanol gave a solid product, which was crystallised from ethanol to give 6-diacetylamino-2,4-bis(trichloromethyl)benzo[1,3]dioxin, m.p. 147°-148° C.

reactant | 6-amino-2,4-bis(trichloromethyl)benzo[1,3]dioxin | 1.0 g | NC=1C=CC2=C(C(OC(O2)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C1 | C10H7Cl6NO2
reactant | acetyl chloride | 1 ml | C(C)(=O)Cl | C2H3ClO
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-diacetylamino-2,4-bis(trichloromethyl)benzo[1,3]dioxin | C(C)(=O)N(C=1C=CC2=C(C(OC(O2)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C1)C(C)=O | C14H11Cl6NO4
